US04758578
3-(3-Methoxyphenyl)-1,2,4-thiadiazole-5-sulfenamide
A solution of 2.2 g of 5-mercapto-3-(3-methoxyphenyl)-1,2,4-thiadiazole in 35 ml of 5% sodium hydroxide and a solution prepared by diluting 22 ml of 5.25% NaOCl solution to 35 ml with water were added dropwise simultaneously to 95 ml of ammonium hydroxide solution while maintaining the mixture at 0°. The resulting mixture was stirred for 15 minutes and the precipitated solid was collected, washed with water and dried (P2O5 /high vacuum) to give 1.76 g of solid, m.p. 157°-160° C.

reactant | 5-mercapto-3-(3-methoxyphenyl)-1,2,4-thiadiazole | 2.2 g | SC1=NC(=NS1)C1=CC(=CC=C1)OC | C9H8N2OS2
reactant | NaOCl | 22 ml | [O-]Cl.[Na+]
reactant | ammonium hydroxide | 95 ml | [OH-].[NH4+]
solvent | sodium hydroxide | 35 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(3-Methoxyphenyl)-1,2,4-thiadiazole-5-sulfenamide | 1.76 g | COC=1C=C(C=CC1)C1=NSC(=N1)SN | C9H9N3OS2
